US07507740B2
(ii) Production of 2-{2-[7-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-1H-pyrazolo[4,3-d]pyrimidin-1-yl]ethoxy}ethanol
A mixture of 2-{2-[7-(methylthio)-1H-pyrazolo[4,3-d]pyrimidin-1-yl]ethoxy}ethyl benzoate (200 mg), 3-chloro-4-[(3-fluorobenzyl)oxy]aniline (140 mg), pyridine hydrochloride (96 mg) and 1-methyl-2-pyrrolidone (5 mL) was stirred at 140° C. for 16.5 hrs. The reaction mixture was poured into saturated aqueous sodium hydrogen carbonate (30 mL), and extracted with ethyl acetate (30 mL×3). The organic layers were combined, washed with saturated brine and dried over anhydrous magnesium sulfate. After concentration under reduced pressure, the residue was subjected to silica gel column chromatography (eluent, hexane:ethyl acetate=90:10→20:80). The object fraction was concentrated under reduced pressure and the residue was dissolved in methanol (5 mL). 1N Aqueous sodium hydroxide solution (1 mL) was added and the mixture was stirred at room temperature for 11.5 hrs. After concentration of the reaction mixture under reduced pressure, water (30 mL) was added, and the mixture was extracted with ethyl acetate (45 mL×2). The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent, hexane:ethyl acetate=80:20→0:100) and recrystallized from ethanol-ethyl acetate to give the title compound (78 mg).

reactant | 2-{2-[7-(methylthio)-1H-pyrazolo[4,3-d]pyrimidin-1-yl]ethoxy}ethyl benzoate | 200 mg | C(C1=CC=CC=C1)(=O)OCCOCCN1N=CC=2N=CN=C(C21)SC | C17H18N4O3S
reactant | 3-chloro-4-[(3-fluorobenzyl)oxy]aniline | 140 mg | ClC=1C=C(N)C=CC1OCC1=CC(=CC=C1)F | C13H11ClFNO
reactant | pyridine hydrochloride | 96 mg | Cl.N1=CC=CC=C1
reactant | sodium hydrogen carbonate | 30 mL | C(O)([O-])=O.[Na+]
solvent | 1-methyl-2-pyrrolidone | 5 mL | CN1C(CCC1)=O | C5H9NO
product | 2-{2-[7-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-1H-pyrazolo[4,3-d]pyrimidin-1-yl]ethoxy}ethanol | 78 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)C=NN2CCOCCO | C22H21ClFN5O3
